US05591752
11-Carboxymethoxy-2-(quinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine: (Exemplary compound 1)
11-Hydroxy-2-(quinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine and methyl glycolate were used and reacted in the same manner as in Example 26 to obtain the title compound.

reactant | 11-Hydroxy-2-(quinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | OC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC=CC=C3C=C2 | C24H19NO3
reactant | methyl glycolate | C(CO)(=O)OC | C3H6O3
product | 11-Carboxymethoxy-2-(quinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | C(=O)(O)COC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC=CC=C3C=C2 | C26H21NO5
